US04046907
1-Nitro-2-methylamino-2-[4-(5-bromo-4-imidazolyl)butylamino]-ethylene
When 5-bromo-4-(4-aminobutyl)imidazole is reacted with 1-nitro-2,2-bis-methylthioethylene according to the procedure of Example 8(i) and the resultant 1-nitro-2-methylthio-2-[4-(5-bromo-4-imidazolyl)butylamino]ethylene, m.p. 157°-158° treated with methylamine by the procedure of Example 8(ii) , the title compound, m.p. 145°-148° is produced.

reactant | 5-bromo-4-(4-aminobutyl)imidazole | BrC1=C(N=CN1)CCCCN | C7H12BrN3
reactant | 1-nitro-2,2-bis-methylthioethylene | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-[4-(5-bromo-4-imidazolyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC=1N=CNC1Br)SC | C10H15BrN4O2S
reactant | methylamine | CN | CH5N
product | 1-Nitro-2-methylamino-2-[4-(5-bromo-4-imidazolyl)butylamino]-ethylene | [N+](=O)([O-])C=C(NCCCCC=1N=CNC1Br)NC | C10H16BrN5O2
